US08735384B2
To a slurry of NaH in THF at 0° C. was added a solution of N-(2-bromo-3-methylphenyl)-3,3-dimethylbutanamide (1.42 g, 5.00 mmol) in THF. After 20 min at 0° C., methyl iodide (342 μL, 5.50 mmol) was added and the reaction mixture was allowed to stir at RT for 1 h. Additional 200 mg NaH and 0.34 ml MeI were added and the reaction was allowed to stir for 5 min. Water and EtOAc were added to the mixture, and the organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the remaining residue was purified by flash column chromatography (0-20% EtOAc/hexanes). N-(2-bromo-3-methylphenyl)-N,3,3-trimethylbutanamide was isolated as a clear, colorless oil.

reactant | NaH | [H-].[Na+]
reactant | N-(2-bromo-3-methylphenyl)-3,3-dimethylbutanamide | 5.00 mmol, 1.42 g | BrC1=C(C=CC=C1C)NC(CC(C)(C)C)=O | C13H18BrNO
reactant | methyl iodide | 5.50 mmol, 342 μL | CI | CH3I
reactant | NaH | 200 mg | [H-].[Na+]
reactant | MeI | 0.34 ml | CI | CH3I
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-(2-bromo-3-methylphenyl)-N,3,3-trimethylbutanamide | BrC1=C(C=CC=C1C)N(C(CC(C)(C)C)=O)C | C14H20BrNO
